US07531663B2
0.7 cm3 (8 mmol) of oxalyl chloride is added to a suspension, cooled to a temperature in the region of 5° C., of 0.74 g (2.57 mmol) of 3-carboxy-1-(isoquinol-3-yl)-1H-indole in 15 cm3 of dichloromethane under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue, dissolved in 15 cm3 of dichloromethane, is again reacted with 1 cm3 (11.46 mmol) of oxalyl chloride. After stirring at a temperature in the region of 22° C. for 48 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 0.7 g of 3-chlorocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride in the form of a yellow solid which is used directly in the following step.

reactant | oxalyl chloride | 8 mmol, 0.7 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-1-(isoquinol-3-yl)-1H-indole | 2.57 mmol, 0.74 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1 | C18H12N2O2
reactant | oxalyl chloride | 11.46 mmol, 1 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride | 0.7 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1 | InChI=1S/C18H11ClN2O.ClH/c19-18(22)15-11-21(16-8-4-3-7-14(15)16)17-9-12-5-1-2-6-13(12)10-20-17;/h1-11H;1H
